US08426447B2
(4R)-2′-(3,3-Dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (70 mg, 171 μmol) was dissolved in TFA (1.31 ml) at RT and water (31 μl, 1705 μmol) was added. The mixture then was heated at 40° C. for 1 hr. TFA was removed in a stream of nitrogen and yellow residue was treated with 1.5 ml of 2N ammonia in methanol for 15 min at RT. The solution was concentrated in vacuo, residue was diluted with ethyl acetate (5 ml), the solution was washed with saturated NaHCO3 solution, brine, dried with magnesium sulfate and concentrated to give 1-((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-3,3-dimethyl-1-butanone.

reactant | (4R)-2′-(3,3-Dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 171 μmol, 70 mg | CC(C#CC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H22N4O2
reactant | water | 1705 μmol, 31 μl | O | H2O
solvent | TFA | 1.31 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-((4S)-2-amino-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2′-yl)-3,3-dimethyl-1-butanone | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C(CC(C)(C)C)=O)C=2C=NC=NC2)N1 | C25H24N4O3
